US05532236
a. 4-Amino-2-(2-methyl-1H-imidazol-1-yl)-5-nitrobenzotrifluoride
To a solution of 20.0 g (~83 mmol) 4-amino-2-chloro-5-nitrobenzotrifluoride in 50 ml dry N,N-dimethylformamide was added 30 g (~370 mmol) 2-methylimidazole, and stirring was continued at 180° C. for 30 h. The reaction mixture was poured into 400 ml water to give the title compound (14.7 g; 62%). M.p. 222°-225° C.

reactant | 4-amino-2-chloro-5-nitrobenzotrifluoride | ~83 mmol, 20.0 g | NC1=CC(=C(C=C1[N+](=O)[O-])C(F)(F)F)Cl | C7H4ClF3N2O2
reactant | 2-methylimidazole | ~370 mmol, 30 g | CC=1NC=CN1 | C4H6N2
reactant | water | 400 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-Amino-2-(2-methyl-1H-imidazol-1-yl)-5-nitrobenzotrifluoride | 14.7 g, 62% | NC1=CC(=C(C=C1[N+](=O)[O-])C(F)(F)F)N1C(=NC=C1)C | C11H9F3N4O2
